US07449486B2
Synthesis of 1-[5-(3-fluorophenyl)-2-(3-isopropylaminopropyl)-2-phenyl-[1,3,4]thiadiazol-3-yl]-2-methylpropan-1-one
A mixture of 1-(2-(3-aminopropyl)-5-(3-fluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-2-methylpropan-1-one (9.0 mg, 0.02 mmol) and acetone (20 mg, 0.40 mmol) in acetonitrile (0.5 mL) was stirred at room temperature for 1 hour. To the mixture was added sodium triacetoxyborohydride (33 mg, 0.20 mmol). After stirring at room temperature for 16 hours, more acetone (50 μL) and sodium triacetoxyborohydride (14 mg) was added. The reaction mixture was heated to 45° C. for 40 hours and then diluted with 10% Na2CO3 (30 mL). The mixture was extracted with ethyl acetate (3×30 mL). The combined organics were dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by flash column chromatography (2% triethylamine, 40% ethyl acetate in hexanes) to provide the product (5.4 mg, 50%) as pale yellow film. MS ESI (+) m/z 428 (M+1) detected; 1H NMR (400 MHz, CDCl3) δ 7.45 (d, 2H, J=8 Hz), 7.42 (d, 1H, J=7 Hz), 7.37 (m, 4H), 7.27 (m, 1H), 7.14 (m, 1H), 3.50 (m, 1H), 3.21 (m, 1H), 2.80 (m, 1H), 2.73 (m, 2H), 2.39 (m, 1H), 1.95 (m, 1H), 1.56 (m, 1H), 1.19 (d, 3H, J=6 Hz), 1.17 (d, 3H, J=6 Hz), 1.05 (d, 6H, J=6 Hz).

reactant | 1-(2-(3-aminopropyl)-5-(3-fluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-2-methylpropan-1-one | 0.02 mmol, 9.0 mg | NCCCC1(SC(=NN1C(C(C)C)=O)C1=CC(=CC=C1)F)C1=CC=CC=C1 | C21H24FN3OS
reactant | acetone | 0.40 mmol, 20 mg | CC(=O)C | C3H6O
reactant | sodium triacetoxyborohydride | 0.20 mmol, 33 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetone | 50 μL | CC(=O)C | C3H6O
reactant | sodium triacetoxyborohydride | 14 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
solvent | Na2CO3 | 30 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | 1-[5-(3-fluorophenyl)-2-(3-isopropylaminopropyl)-2-phenyl-[1,3,4]thiadiazol-3-yl]-2-methylpropan-1-one | 5.4 mg, 50% | FC=1C=C(C=CC1)C1=NN(C(S1)(C1=CC=CC=C1)CCCNC(C)C)C(C(C)C)=O | C24H30FN3OS
